Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hematochezia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ presenting with one day history of bright red blood per 
rectum. History provided by the patient and his son are of fair 
quality. The patient noted bright red blood in the toilet on the 
morning PTA. He does not remember how much blood was in the 
toilet, but thinks that it was filling the bowl. He noted no 
changes in his stool, has regular BMs 2 times per day of regular 
consistency. He only noticed the blood because he saw it. Denies 
lightheadedness, chest pain, shortness of breath, lower 
extremity swelling, fevers, chills, nausea and vomiting. He 
denies recent weight loss. 

In the ED, initial vitals were: 98.4 110 132/78 18 100% RA. He 
was noted to remain tachycardic in ___ range. Rectal exam 
in ED revealed bright red blood on finger, no hemorrhoids were 
visualized. A Type and screen was drawn. He had a hemoglobin 
which was 10.1, down from 12.8 one year prior. His coags were 
normal. 

On the floor, he denies any acute symptoms. Re reports feeling 
hungry. He denies any abdominal pain, nausea, vomiting, 
diarrhea, lightheadedness, chest pain, ___ edema, fevers or 
chills. 
 
Past Medical History:
HTN
CKD
anemia. 
glaucoma
osteoarthritis,
elevated PSA

 
Social History:
___
Family History:
 Mother and father are both deceased.  No history
of MI, stroke, or cancer.  Brothers and sisters deceased of
unclear causes as per the patient.

 
Physical Exam:
ADMISSION EXAM: 
==================  
VITALS:  98.1 166 / 74 93 16 96 Ra 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI
CARDIOVASCULAR: Regular rate and rhythm, normal S1 + S2, no 
murmurs, rubs, gallops  
LUNGS: Clear to auscultation bilaterally without wheezes, rales, 
rhonchi
ABDOMEN: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
GU: No foley  
EXTREMITIES: Warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema  
NEURO: Face grossly symmetric. Moving all limbs with purpose 
against gravity. Pupils equal and reactive, no dysarthria.  

DISCHARGE EXAM: 
==================  
Vitals: Tmax 98.7, Tcurrent 97.6, ___ 
___ O2: 96-98% RA  
I/O= = 720cc/200cc + unrecorded voids
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, no conjunctival pallor, oropharynx 
clear  
Neck: supple, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding
Ext: warm, 1+ distal pulses, no clubbing, cyanosis or edema   
Neuro: A&Ox3. CN II-XII intact. ___ strength throughout upper 
and lower extremities. No pronator drift. Sensation grossly 
intact.

 
Pertinent Results:
Admission labs 
___ 01:12PM BLOOD WBC-4.5 RBC-3.05* Hgb-10.1* Hct-30.6* 
MCV-100* MCH-33.1* MCHC-33.0 RDW-13.3 RDWSD-49.1* Plt ___
___ 01:12PM BLOOD Neuts-62.7 ___ Monos-11.1 
Eos-0.0* Baso-0.7 Im ___ AbsNeut-2.83 AbsLymp-1.14* 
AbsMono-0.50 AbsEos-0.00* AbsBaso-0.03
___ 01:12PM BLOOD ___ PTT-27.0 ___
___ 01:12PM BLOOD Glucose-105* UreaN-28* Creat-1.5* Na-139 
K-4.1 Cl-103 HCO3-25 AnGap-15
___ 07:54AM BLOOD Calcium-9.5 Phos-2.7 Mg-2.0

Other labs: 
___ 01:12PM BLOOD VitB12-1490*

Discharge labs: 
___ 06:38AM BLOOD WBC-4.1 RBC-2.93* Hgb-9.7* Hct-29.5* 
MCV-101* MCH-33.1* MCHC-32.9 RDW-13.6 RDWSD-49.6* Plt ___
___ 06:38AM BLOOD Glucose-90 UreaN-26* Creat-1.5* Na-141 
K-4.2 Cl-105 HCO3-24 AnGap-16
___ 06:38AM BLOOD Calcium-9.2 Phos-3.4 Mg-1.___ M with PMHx of BPH and chronic macrocytic anemia presenting 
after one episode of bright red blood in the stool. He described 
the episode as painless bleeding with blood mixed into the stool 
and filling the toilet bowl. He was admitted for monitoring and 
did not have any repeat episodes of bleeding. The patient denied 
prior episode of GI bleed, change in his stool appearance or 
frequency, weight loss, night sweats to suggest malignancy. 
Suspicion was for self-limited diverticular bleed. GI was 
consulted and recommended outpatient colonoscopy after 
discussion with PCP regarding goals of care. 

# Hypertension: He was continued on home amlodipine. Flomax was 
held as pt does not take regularly. 

# CKD: Creatinine was around baseline of 1.5. 

# Chronic Macrocytic anemia:  Extensively evaluated previously 
by PCP. Previous B12 were normal and his B12 this admission was 
checked again and was normal. 

# Hx of atrophic gastritis: Not evaluated as inpatient. Could 
consider H. pylori antibody as an outpatient. 

TRANSITIONAL ISSUES
======================
[ ] Discuss with patient risk/benefit of outpatient ___ for 
workup of lower GIB
[ ] consider iron supplementation as outpatient
[ ] consider evaluation for H. pylori 
[ ] tamsulosin held inpatient as patient rarely using; if blood 
pressure continues to be borderline low at night, consider 
decreasing amlodipine if restarting tamsulosin. 
[] Consider nephrology follow-up for CKD
[] Please note trace hematuria and consider further evaluation 
for this

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Tamsulosin 0.4 mg PO QHS 
3. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
LOWER GI BLEED

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you here at ___ 
___. 

Why you were here: 
- You had bleeding from your rectum. 

What we did while you were here: 
- We tested your stool and it was positive for blood. 
- We followed your blood counts and monitored you. Your bleeding 
stopped and your blood counts were stable. 
- The Gastroenterologists reviewed your case and felt that there 
was no need for a colonoscopy. 

What to do when you get home: 
- Please take all your medications as prescribed below. 
- If you have any further bleeding please let your doctor know 
right away. 
 
Followup Instructions:
___